US05824802
20. Preparation of 1-Ethyl-4-(2-chloro-3-(2-ethylmorpholin-4-yl)-4-methylsulfonylbenzoyl)-5-hydroxypyrazole (Compound 83)
A solution of 500 mg (1.09 mmol) of 1-ethyl-4-(2-chloro-3-(6-ethyl-2-hydroxymorpholin-4-yl)-4-methylsulfonylbenzoyl)-5-hydroxypyrazole in 3 mL of trifluoroacetic acid was treated with 1 mL of triethylsilane at ambient temperature and stirred vigorously for 2 hours. The solvent was removed by evaporation under reduced pressure and the orange residue obtained was partitioned between dichloromethane and water. The organic solution was dried over sodium sulfate and concentrated by evaporation under reduced pressure. The solid residue was recrystallized from ethanol to obtain 210 mg (44 percent of theory) of the title compound as light orange-brown crystals.

reactant | 1-ethyl-4-(2-chloro-3-(6-ethyl-2-hydroxymorpholin-4-yl)-4-methylsulfonylbenzoyl)-5-hydroxypyrazole | 1.09 mmol, 500 mg | C(C)N1N=CC(=C1O)C(C1=C(C(=C(C=C1)S(=O)(=O)C)N1CC(OC(C1)CC)O)Cl)=O | C19H24ClN3O6S
reactant | triethylsilane | 1 mL | C(C)[SiH](CC)CC | C6H16Si
solvent | trifluoroacetic acid | 3 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 1-Ethyl-4-(2-chloro-3-(2-ethylmorpholin-4-yl)-4-methylsulfonylbenzoyl)-5-hydroxypyrazole | C(C)N1N=CC(=C1O)C(C1=C(C(=C(C=C1)S(=O)(=O)C)N1CC(OCC1)CC)Cl)=O | C19H24ClN3O5S
